US06589970B2
A mixture of butyl-(6-methoxy-naphthalen-2-ylmethyl)-amine (10.0 g, 41.09 mmol), prepared in the previous step, 300 mL of 48% HBr and 200 mL of glacial acetic acid was refluxed under nitrogen for 19 h (overnight). The solvent was removed under reduced pressure. The resulting residue was partitioned between ethyl acetate and 5% sodium bicarbonate. The organic layer was separated, dried (MgSO4) and the solvent removed under reduced pressure to give 6-butylaminomethyl-naphthalen-2-ol (7.54 g, 80%) as a brown solid, mp 108-112° C.

reactant | butyl-(6-methoxy-naphthalen-2-ylmethyl)-amine | 41.09 mmol, 10.0 g | C(CCC)NCC1=CC2=CC=C(C=C2C=C1)OC | C16H21NO
reactant | HBr | 300 mL | Br | BrH
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 6-butylaminomethyl-naphthalen-2-ol | 7.54 g, 80% | C(CCC)NCC=1C=C2C=CC(=CC2=CC1)O | C15H19NO
